US05583227
In accordance with the procedure of the step 1 of Example 10, 30.3 g of 3-methyl-1-butyne-3-ol was allowed to react with 48.5 g of 2-chloroethylpropyl ether to obtain 13.5 g of 3-(2-n-propoxyethoxy)-3-methyl-1-butyne.

reactant | 3-methyl-1-butyne-3-ol | 30.3 g | CC(C#C)(C)O | C5H8O
reactant | 2-chloroethylpropyl ether | 48.5 g | ClCCOCCC | C5H11ClO
product | 3-(2-n-propoxyethoxy)-3-methyl-1-butyne | 13.5 g | C(CC)OCCOC(C#C)(C)C | C10H18O2
